US05686442
Under the argon atmosphere, N-methylaniline (0.1 ml, 0.923 mmole) and pyridine (0.32 ml, 3.96 mmole) were added to a solution of 5-ethoxycarbonyl-1-(4-methoxybenzyl)-1,2,3-triazole-4-carboxylic acid (311 mg, 1.02 mmole) in methylene chloride (3 ml). To the reaction mixture, which had been cooled to -30° C., was added a solution of phosphorus oxychloride (192 mg, 1.25 mmole) in methylene chloride (0.5 ml). After the mixture was stirred at -30° C. for 1 hour, the reaction was quenched by adding water. The reaction mixture was extracted with ethyl acetate, and the organic layer was washed with dilute hydrochloric acid, a saturated aqueous sodium hydrogen carbonate and a saturated aqueous saline. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed by distillation. The residue thus obtained was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give ethyl 1-(4-methoxybenzyl)-4(N-methyl-N-phenylcarbamoyl)-1,2,3-triazole-5-carboxylate as a yellow crystalline powder (329 mg, 90.4%).

reactant | N-methylaniline | 0.923 mmole, 0.1 ml | CNC1=CC=CC=C1 | C7H9N
reactant | pyridine | 3.96 mmole, 0.32 ml | N1=CC=CC=C1 | C5H5N
reactant | 5-ethoxycarbonyl-1-(4-methoxybenzyl)-1,2,3-triazole-4-carboxylic acid | 1.02 mmole, 311 mg | C(C)OC(=O)C1=C(N=NN1CC1=CC=C(C=C1)OC)C(=O)O | C14H15N3O5
reactant | phosphorus oxychloride | 1.25 mmole, 192 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.5 ml | C(Cl)Cl | CH2Cl2
product | ethyl 1-(4-methoxybenzyl)-4(N-methyl-N-phenylcarbamoyl)-1,2,3-triazole-5-carboxylate | 329 mg, 90.4% | COC1=CC=C(CN2N=NC(=C2C(=O)OCC)C(N(C2=CC=CC=C2)C)=O)C=C1 | C21H22N4O4
